US08039472B2
To a solution of 2-(benzhydrylidene-amino)-5-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]pentanenitrile (7.2 g, 15.5 mmol) in THF (50 ml) is added a 2M HCl (aq) (5 ml). The solution is heated at 40° C. for 4 hours and then allowed to cool to room temperature. The pH is adjusted to pH 9-10 using saturated aqueous sodium hydrogen carbonate solution and the organic solvent is removed in vacuo. The crude residue is dissolved in EtOAc (100 ml) and washed with water, brine, dried (MgSO4), filtered and concentrated in vacuo. The resulting residue is purified by chromatography on silica eluting with 5:1 to 1:1 iso-hexane/ethyl aEtOAc and 1% triethylamine to yield 2-Amino-5-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-pentanenitrile as a colourless oil which solidifies; 1H NMR (CDCl3): mixture of diastereoisomers 1.39 (3H, s), 1.43 (3H, s), 1.70-1.87 (4H, m), 2.60 (2H, tr, J=7.1 Hz), 3.62 (1H, br), 3.90 (2H, m), 4.00-4.18 (2H, m), 4.48 (1H, pent, J=6.9 Hz), 6.82 (2H, d, J=7.4 Hz), 7.10 (2H, d, J=7.4 Hz). [M+H]+ 305

reactant | 2-(benzhydrylidene-amino)-5-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]pentanenitrile | 15.5 mmol, 7.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC(C#N)CCCC1=CC=C(C=C1)OC[C@H]1OC(OC1)(C)C | C30H32N2O3
reactant | HCl | 2M, 5 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-Amino-5-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-pentanenitrile | NC(C#N)CCCC1=CC=C(C=C1)OC[C@H]1OC(OC1)(C)C | C17H24N2O3
